US06982348B2
To a solution of (2RS,3RS)-2-[3-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid (4.22 g, 13.6 mmol) in tetrahydrofuran (130 ml) were added triethylamine (2.85 ml, 20.4 mmol) and diphenylphosphoryl azide (3.23 ml, 14.96 mmol), and the mixture was heated under reflux for 5 hrs. The solvent was evaporated, and the residue was diluted with ethyl acetate, washed with water, saturated aqueous sodium hydrogen carbonate and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give [4RS,5SR]-4-(3-[1,1-difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (3.99 g, 95%) as colorless crystals.

reactant | (2RS,3RS)-2-[3-(1,1-difluoroethyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid | 13.6 mmol, 4.22 g | FC(C)(F)C=1C=C(CC(C(=O)O)C(O)C2=CC=C(C=C2)F)C=CC1 | C18H17F3O3
reactant | triethylamine | 20.4 mmol, 2.85 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 14.96 mmol, 3.23 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | [4RS,5SR]-4-(3-[1,1-difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 3.99 g, 95% | FC(C)(F)C=1C=C(CC2NC(OC2C2=CC=C(C=C2)F)=O)C=CC1 | C18H16F3NO2
